US07816363B2
A mixture of 4-[4-(phenylmethyl)-1-piperazinyl]-benzoic acid (0.0145 mol), O-(tetrahydro-2H-pyran-2-yl)-hydroxylamine (0.029 mol), N,N-methanetetrayl-biscyclohexanamine (0.0145 mol) and 1-hydroxy-1H-benzotriazole (0.021 mol) in DCM p.a. (200 ml) was stirred at room temperature over the weekend. The reaction mixture was washed with water, dried (MgSO4), filtered and the solvent was evaporated. The residue was crystallized from EtOAc, filtered off and dried, yielding 3.5 g and another crop: 2.0 g total yielding 5.5 g (95%) of 4-[4-(phenylmethyl)-1-piperazinyl]-N-[(tetrahydro-2H-pyran-2-yl)oxy]-benzamide (interm. 8).

reactant | 4-[4-(phenylmethyl)-1-piperazinyl]-benzoic acid | 0.0145 mol | C1(=CC=CC=C1)CN1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C18H20N2O2
reactant | O-(tetrahydro-2H-pyran-2-yl)-hydroxylamine | 0.029 mol | O1C(CCCC1)ON | C5H11NO2
reactant | 1-hydroxy-1H-benzotriazole | 0.021 mol | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-[4-(phenylmethyl)-1-piperazinyl]-N-[(tetrahydro-2H-pyran-2-yl)oxy]-benzamide | 5.5 g, 95% | C1(=CC=CC=C1)CN1CCN(CC1)C1=CC=C(C(=O)NOC2OCCCC2)C=C1 | C23H29N3O3
